US07728018B2
3,3a,4,5,6,7-Hexahydro-2H-indazole
Hydrazine hydrate (28.0 mL) was dissolved in n-BuOH (200 mL) and cooled in an ice bath. A solution of 2-dimethylaminomethyl-cyclohexanone (64.0 g) in n-BuOH (50 mL) was added dropwise, the mixture was slowly warmed and refluxed for 20 hours. The solvent was evaporated under reduced pressure.

reactant | Hydrazine hydrate | 28.0 mL | O.NN
reactant | 2-dimethylaminomethyl-cyclohexanone | 64.0 g | CN(C)CC1C(CCCC1)=O | C9H17NO
solvent | n-BuOH | 200 mL | CCCCO | C4H10O
solvent | n-BuOH | 50 mL | CCCCO | C4H10O
product | 3,3a,4,5,6,7-Hexahydro-2H-indazole | N=1NCC2CCCCC12 | C7H12N2
